US07872033B2
ethyl 2-fluoro-5-(trifluoromethyl)benzoate
To a solution of 2-fluoro-5-(trifluoromethyl)benzoyl chloride (5.0 g, 22.0 mmol) in THF (25 mL) was added Et3N (3.1 mL, 22.0 mmol) followed by EtOH (1.3 mL, 22.0 mmol). This mixture was stirred at ambient temperature for 1 h and quenched with saturated, aqueous NH4Cl (10 mL). The layers were separated and the aqueous layer was extracted with 3×10 mL EtOAc and the combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The crude material was purified by column chromatography (SiO2, 60% hexanes in EtOAc) to give the title compound (4.8 g, 20.3 mmol, 92% yield). 1H NMR (300 MHz, CDCl3) δ ppm 1.42 (t, J=7.1 Hz, 3H), 4.43 (q, J=7.1 Hz, 2H), 7.23-7.34 (m, 1H), 7.74-7.82 (m, 1H), 8.23 (dd, J=6.3, 2.4 Hz, 1H).

reactant | 2-fluoro-5-(trifluoromethyl)benzoyl chloride | 22.0 mmol, 5.0 g | FC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3ClF4O
reactant | Et3N | 22.0 mmol, 3.1 mL | CCN(CC)CC | C6H15N
reactant | EtOH | 22.0 mmol, 1.3 mL | CCO | C2H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | ethyl 2-fluoro-5-(trifluoromethyl)benzoate | 20.3 mmol, 4.8 g, 92% yield | FC1=C(C(=O)OCC)C=C(C=C1)C(F)(F)F | C10H8F4O2
